US09226916B2
[(3S,4R)-4-(4-Chloro-phenyl)-1-(5′-methanesulfonyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-carbonyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester
A mixture of 20 mg (0.043 mmol) [(3S,4R)-4-(4-Chloro-phenyl)-1-(piperidine-4-carbonyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester, 11.2 uL (0.065 mmol) DIPEA and 12.8 mg (0.054 mmol) 2-bromo-5-(methylsulfonyl)pyridine in 1 mL DMF was heated to 60° C. over night. The mixture was subjected to purification by preparative HPLC on reversed phase eluting with a gradient formed from acetonitrile, water and NEt3 to yield after evaporation of the product containing fractions the title compound as light yellow viscous oil. MS m/e: 615.3 [M]+.

reactant | [(3S,4R)-4-(4-Chloro-phenyl)-1-(piperidine-4-carbonyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester | 0.043 mmol, 20 mg | FC1=CC=C(C=C1)OC(N(C)[C@@H]1CN(C[C@H]1C1=CC=C(C=C1)Cl)C(=O)C1CCNCC1)=O | C24H27ClFN3O3
reactant | DIPEA | 0.065 mmol, 11.2 uL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-bromo-5-(methylsulfonyl)pyridine | 0.054 mmol, 12.8 mg | BrC1=NC=C(C=C1)S(=O)(=O)C | C6H6BrNO2S
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | [(3S,4R)-4-(4-Chloro-phenyl)-1-(5′-methanesulfonyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-carbonyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester | FC1=CC=C(C=C1)OC(N(C)[C@@H]1CN(C[C@H]1C1=CC=C(C=C1)Cl)C(=O)C1CCN(CC1)C1=NC=C(C=C1)S(=O)(=O)C)=O | C30H32ClFN4O5S
